US06828460B2
trans-N-[4-(2,4-Dihydroxyphenyl)cyclohexyl]methanesulfonamide
To a round bottomed flask equipped with magnetic stirrer was added trans-N-[4-(2,4-bis{[tert-butyl(dimethyl)silyl]oxy}phenyl)cyclohexyl] methanesulfonamide (320 mg, 0.57 mmol) and 1,2-dichloroethane (50 ml). To the stirred solution was added trifluoroacetic acid (20 ml) and water (20 ml). The stirred reaction mixture was then heated under reflux for 18 hr and then cooled to room temperature. Toluene (70 ml) was added and the solvent removed in vacuo. Methanol (50 ml) was then added to the residue and the solvent removed under reduced pressure. The resulting oil was purified via flash column chromatography (SiO2, ethyl acetate/petroleum ether, 1:3, 1:2, then 1:1 v/v) to furnish the title product (115 mg, 71%) as a white solid. m/z (ES+) 286 (M+H+); δH(CD3OD) 1.52 (4H, m), 1.89 (2H, m), 2.13 (2H, m), 2.80 (1H, m), 3.00 (3H, s), 3.28 (1H, m), 6.27 (1H, d), 6.29 (1H, dd), 6.92 (1H, d).

reactant | trans-N-[4-(2,4-bis{[tert-butyl(dimethyl)silyl]oxy}phenyl)cyclohexyl] methanesulfonamide | 0.57 mmol, 320 mg | [Si](C)(C)(C(C)(C)C)OC1=C(C=CC(=C1)O[Si](C)(C)C(C)(C)C)[C@@H]1CC[C@H](CC1)NS(=O)(=O)C | C25H47NO4SSi2
reactant | 1,2-dichloroethane | 50 ml | ClCCCl | C2H4Cl2
reactant | trifluoroacetic acid | 20 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | water | 20 ml | O | H2O
solvent | Toluene | 70 ml | C1(=CC=CC=C1)C | C7H8
product | trans-N-[4-(2,4-Dihydroxyphenyl)cyclohexyl]methanesulfonamide | 115 mg, 71% | OC1=C(C=CC(=C1)O)[C@@H]1CC[C@H](CC1)NS(=O)(=O)C | C13H19NO4S
